US07884124B2
To a solution of methyl 1-benzyl-1H-pyrrole-2-carboxylate (3.00 g, 13.9 mmol) in DCM (70 mL) at −78° C. was added a 1M solution of diisobutylaluminum hydride (DIBAL-H) in heptane (35.0 mL, 34.8 mmol). After 45 min the reaction was quenched with saturated aqueous solution of NH4Cl (20 mL) and Rochell's salt (100 g). The mixture was allowed to warm to rt and was stirred for 2.5 h. The reaction mixture was extracted with EtOAc (3×). The combined organic layers were washed with H2O, saturated aq NaCl, dried over MgSO4, filtered and concentrated in vacuo to give a pale yellow oil. The crude product was chromatographed over silica gel (0 to 20% EtOAc in heptane over 20 min) to give (1-benzyl-1H-pyrrol-2-yl)-methanol as a colorless oil (2.30 g, 88%). Rf=0.47 (1:1 heptane/EtOAc); 1H NMR (400 MHz, CDCl3) δ (ppm) 7.27-7.35 (m, 4H) 7.08-7.10 (m, 1H) 7.06-7.08 (m, 1H) 6.73 (dd, J=2.7, 1.8 Hz, 1H) 6.19 (dd, J=3.5, 1.8 Hz, 1H) 6.12-6.16 (m, 1H) 5.21-5.23 (s, 2H) 4.53 (d, J=5.1 Hz, 2H).

reactant | methyl 1-benzyl-1H-pyrrole-2-carboxylate | 13.9 mmol, 3.00 g | C(C1=CC=CC=C1)N1C(=CC=C1)C(=O)OC | C13H13NO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | heptane | 34.8 mmol, 35.0 mL | CCCCCCC | C7H16
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | (1-benzyl-1H-pyrrol-2-yl)-methanol | 2.30 g, 88% | C(C1=CC=CC=C1)N1C(=CC=C1)CO | C12H13NO
